US04035369
A mixture of 9 parts of 2-[(2-amino-4-chlorophenyl)amino]-ethanol and 9 parts of urea is stirred and heated for 2 hours at 180°-190° C. After cooling the reaction mixture is treated with concentrated sodium hydroxide solution. The obtained solution is filtered from some unsoluble matter. It is then treated with activated charcoal and filtered again. The filtrate is acidified with concentrated hydrochloric acid. After keeping overnight at room temperature, the precipitated solid is filtered off, washed and dried, to yield 5 parts of 5-chloro-1-(2-hydroxyethyl)-1,3-dihydro-2H-benzimidazol-2-one; mp. 176°-178.2° C; pale-brown, amorphous powder.

reactant | 2-[(2-amino-4-chlorophenyl)amino]-ethanol | NC1=C(C=CC(=C1)Cl)NCCO | C8H11ClN2O
reactant | urea | NC(=O)N | CH4N2O
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-chloro-1-(2-hydroxyethyl)-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)CCO)C=C1 | C9H9ClN2O2
